US07273878B2
To 20 ml of chloroform was dissolved 1.10 g (3.8 mmol) of 4,4-difluoro-3-methyl-3-butenyl 4-methyl-2-(methylthio)pyrimidine-5-carboxylate, followed by the addition, in three portions, of 2.00 g (8.1 mmol) of 70% m-chloroperbenzoic acid under ice-cooling and stirring for 1 hour after warming to room temperature. An aqueous solution of sodium hydrogensulfite was added under ice-cooling and the mixture was filtered to fractionate an organic layer. The organic layer was washed with a saturated sodium hydrogencarbonate solution and water in this order, followed by drying over anhydrous magnesium sulfate, the addition of “Florisil” and filtering. The solution was concentrated at 40° C. under reduced pressure to obtain 1.13 g (yield: 92%) of 4,4-difluoro-3-methyl-3-butenyl 2-methanesulfonyl-4-methylpyrimidine-5-carboxylate.

reactant | 4,4-difluoro-3-methyl-3-butenyl 4-methyl-2-(methylthio)pyrimidine-5-carboxylate | 3.8 mmol, 1.10 g | CC1=NC(=NC=C1C(=O)OCCC(=C(F)F)C)SC | C12H14F2N2O2S
reactant | m-chloroperbenzoic acid | 8.1 mmol, 2.00 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4,4-difluoro-3-methyl-3-butenyl 2-methanesulfonyl-4-methylpyrimidine-5-carboxylate | 1.13 g, yield: 92% | CS(=O)(=O)C1=NC=C(C(=N1)C)C(=O)OCCC(=C(F)F)C | C12H14F2N2O4S
